US08614206B2
To a solution of tert-butyl 3-fluoro-5-(4-methoxybenzyloxy)azepane-1-carboxylate (740 mg, 0.21 mmol) in MeOH (5 mL) was added HCl (4 M in 1,4-dioxane, 5.3 mL, 21 mmol) and the solution was stirred at room temperature for 16 hr. The solvents were removed under reduced pressure and the residue was dissolved in MeOH and loaded onto an SCX column. The column was washed with MeOH and eluted with 7 N ammonia in MeOH. The solvents were removed under reduced pressure to afford a yellow oil. To a solution of this oil in dry DMSO (15 mL) was added potassium fluoride (0.32 g, 8.4 mmol) and 5-chloro-1-methyl-4-nitro-1H-pyrazole (372 mg, 2.31 mmol) and the mixture was heated at 65° C. for 16 hr. After cooling to room temperature, the mixture was diluted with water (300 mL) and extracted with EtOAc (2×50 mL). The combined organic layers were washed with water (3×50 mL) and the solvent was removed under reduced pressure. Purification via silica gel column chromatography (20-100% EtOAc/isohexane) gave 3-fluoro-5-(4-methoxybenzyloxy)-1-(1-methyl-4-nitro-1H-pyrazol-5-yl)azepane as a yellow oil (300 g, 55% over two steps). 1H NMR (400 MHz, CDCl3) δ 7.33-7.23 (m, 3H), 6.89-6.86 (m, 2H), 4.82-4.66 (m, 2H), 4.49-3.93 (m, 1H), 3.81 (s, 3H), 3.30-2.99 (m, 4H), 2.95-2.74 (m, 4H), 2.35-2.03 (m, 2H), 1.98-1.83 (m, 2H).

reactant | tert-butyl 3-fluoro-5-(4-methoxybenzyloxy)azepane-1-carboxylate | 0.21 mmol, 740 mg | FC1CN(CCC(C1)OCC1=CC=C(C=C1)OC)C(=O)OC(C)(C)C | C19H28FNO4
reactant | HCl | 21 mmol, 4 M, 5.3 mL | Cl | ClH
reactant | potassium fluoride | 8.4 mmol, 0.32 g | [F-].[K+]
reactant | 5-chloro-1-methyl-4-nitro-1H-pyrazole | 2.31 mmol, 372 mg | ClC1=C(C=NN1C)[N+](=O)[O-] | C4H4ClN3O2
solvent | MeOH | 5 mL | CO | CH4O
solvent | DMSO | 15 mL | CS(=O)C | C2H6OS
solvent | water | 300 mL | O | H2O
product | 3-fluoro-5-(4-methoxybenzyloxy)-1-(1-methyl-4-nitro-1H-pyrazol-5-yl)azepane | FC1CN(CCC(C1)OCC1=CC=C(C=C1)OC)C1=C(C=NN1C)[N+](=O)[O-] | C18H23FN4O4
